US03960871
1,2-Dihydro-2,4,4-trimethyl-9-hydroxy-7-(3-methyl-2-octyl)-4H-thieno-[2,3-c][1]benzopyran, dicyclohexylcarbodiimide and γ-morpholinobutyric acid hydrochloride are combined in methylene chloride and stirred at room temperature. The insoluble dicyclohexylurea is removed by filtration and the methylene chloride is removed on a rotary evaporator. The residue is crystallized from ether to give 1,2-dihydro-2,4,4-trimethyl-9-[4-(morpholino)butyryloxy]-7-(3-methyl-2-octyl)-4H-thieno[2,3-c][1]benzopyran hydrochloride.

reactant | 1,2-Dihydro-2,4,4-trimethyl-9-hydroxy-7-(3-methyl-2-octyl)-4H-thieno-[2,3-c][1]benzopyran | CC1CC2=C(C(OC3=C2C(=CC(=C3)C(C)C(CCCCC)C)O)(C)C)S1 | C23H34O2S
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | γ-morpholinobutyric acid hydrochloride | Cl.O1CCN(CC1)CCCC(=O)O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,2-dihydro-2,4,4-trimethyl-9-[4-(morpholino)butyryloxy]-7-(3-methyl-2-octyl)-4H-thieno[2,3-c][1]benzopyran hydrochloride | Cl.CC1CC2=C(C(OC3=C2C(=CC(=C3)C(C)C(CCCCC)C)OC(CCCN3CCOCC3)=O)(C)C)S1 | InChI=1S/C31H47NO4S.ClH/c1-7-8-9-11-21(2)23(4)24-19-26(35-28(33)12-10-13-32-14-16-34-17-15-32)29-25-18-22(3)37-30(25)31(5,6)36-27(29)20-24;/h19-23H,7-18H2,1-6H3;1H
